US07943609B2
(11S)-11-Methyl-2-(2-morpholin-4-yl-2-oxoethoxy)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
A solution of (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol (500 mg, 1.85 mmol) dissolved in 15 mL of DMF was treated with cesium carbonate (1.80 g, 5.55 mmol) and 2-bromo-1-morpholin-4-yl-ethanone (462 mg, 2.03 mmol). After stirring overnight at 75° C., the brown mixture was poured into 150 mL of H2O and stirred for 30 minutes. The reaction mixture was extracted with CHCl3 (3×75 mL) and the combined extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give an off-white solid. Chromatography (SiO2, 0-20% CMA/CHCl3) gave an off-white solid which was crystallized from acetonitrile to give 272 mg of the title compound as an off-white solid, mp 226-228° C.

reactant | (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol | 1.85 mmol, 500 mg | NC1=NC2=CC=C(C=C2C2=C1N=C1N2[C@H](COC1)C)O | C14H14N4O2
reactant | cesium carbonate | 5.55 mmol, 1.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1-morpholin-4-yl-ethanone | 2.03 mmol, 462 mg | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (11S)-11-Methyl-2-(2-morpholin-4-yl-2-oxoethoxy)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 272 mg | C[C@H]1COCC=2N1C1=C(C(=NC3=CC=C(C=C13)OCC(=O)N1CCOCC1)N)N2 | C20H23N5O4
